US05872139
To 3-butoxy-4-[(5-nitro-benzofuran-2-ylmethyl)amino]-cyclobut-3-ene-1,2-dione (0.25 g, 0.727 mmol), as prepared in Example 8, in ethanol (5 mL) was added tert-butylamine (0.51 mL, 4.85 mmol). The reaction was stirred at 70° C. for 18 hours and then at room temperature for 48 hours. Workup in a manner identical to Example 9 afforded 0.20 g (80%) of 3-tert-butylamino-4-[(5-nitro-benzofuran-2-ylmethyl)-amino]-cyclobut-3-ene-1,2-dione as an off-white solid: mp>300° C.; 1H NMR (DMSO-d6): δ 8.61 (d, 1H), 8.20 (dd, 1H), 7.91 (br t, 1H), 7.81 (d, 1H), 7.59 (br s, 1H), 7.07 (s, 1H), 4.98 (d, 2H), 1.36 (s, 9H). IR (KBr): 3220, 2930, 1800, 1675 cm-1 ; MS (m/z) 344.3 [M+H]+.

reactant | 3-butoxy-4-[(5-nitro-benzofuran-2-ylmethyl)amino]-cyclobut-3-ene-1,2-dione | 0.727 mmol, 0.25 g | C(CCC)OC=1C(C(C1NCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-])=O)=O | C17H16N2O6
reactant | tert-butylamine | 4.85 mmol, 0.51 mL | C(C)(C)(C)N | C4H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-tert-butylamino-4-[(5-nitro-benzofuran-2-ylmethyl)-amino]-cyclobut-3-ene-1,2-dione | 0.20 g, 80% | C(C)(C)(C)NC=1C(C(C1NCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-])=O)=O | C17H17N3O5
